US20010047006A1
Preparation of Intermediate (1S)-[1-Hydroxymethyl-3-(tritylcarbamoyl)propyl]carbamic Acid Benzyl Ester (B1)
4-Methylmorpholine (1.89 mL, 17.2 mmol, 1 equiv) and ethyl chloroformate (1.65 mL, 17.3 mmol, 1 equiv) were added to a mixture of commercially available Cbz-Gln(Trt)-OH (9.00 g, 17.2 mmol, 1 equiv) in THF (23 mL) at −10° C. After stirring 20 min, the reaction mixture was filtered and the filtrate was added dropwise to a suspension of NaBH4 (1.47 g, 38.9 mmol, 2.25 equiv) in H2O (10 mL) at 0° C. The resulting mixture was allowed to warm to 23° C. and stirred for 5 h. It was then cooled again to 0° C., quenched by the careful addition of 1 N HCl (30 mL) and then partitioned between MTBE (500 mL) and brine (2×100 mL). The organic phase was dried over Na2SO4 and evaporated to provide the title intermediate which was used without further purification.

reactant | 4-Methylmorpholine | 17.2 mmol, 1.89 mL, 1 equiv | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 17.3 mmol, 1.65 mL, 1 equiv | ClC(=O)OCC | C3H5ClO2
reactant | Cbz-Gln(Trt)-OH | 17.2 mmol, 9.00 g, 1 equiv | N([C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C32H30N2O5
reactant | NaBH4 | 38.9 mmol, 1.47 g, 2.25 equiv | [BH4-].[Na+]
solvent | THF | 23 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | (1S)-[1-Hydroxymethyl-3-(tritylcarbamoyl)propyl]carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(N[C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO)=O | C32H32N2O4
